US06124323
4-Benzyl-1-(2-(3-(2-hydroxyethyl)phenoxy) ethyl)piperidine
To a suspension of lithium aluminum hydride (150 mg, 4.0 mmol) in 10 mL of anhydrous THF was added dropwise a solution of 4-benzyl-1-(2-(3-(ethoxycarbonylmethyl)phenoxy)ethyl)piperidine (0.382 g, 1.00 mmol) in 2 mL of THF at -78° C. The resulting mixture was allowed to warm to room temperature and was stirred for 12 hr. Water (0.2 mL), 15% NaOH aqueous solution (0.2 mL) and water (1 mL) were added successively. The colorless solid was removed by filtration and washed with EtOAc (3×20 mL). The filtrate was dried over Na2SO4. Evaporation of solvents gave a residue, which was purified by flash chromatography giving the title product as colorless oil (223 mg, 66%) 1H NMR (CDCl3) 1.37 (m, 2 H), 1.60 (m, 1 H), 1.63 (m, 2 H), 2.05 (m, 2 H), 2.36 (d, J=6.6 Hz, 2 H), 2.76 (m, 2 H), 2.82 (m, 2 H), 2.95 (m, 3 H), 3.81 (t, J=6.9 Hz, 2 H), 4.08 (t, J=6.9 Hz, 2 H), 6.80 (m, 3 H), 7.17-7.29 (m, 6 H).

reactant | lithium aluminum hydride | 4.0 mmol, 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-benzyl-1-(2-(3-(ethoxycarbonylmethyl)phenoxy)ethyl)piperidine | 1.00 mmol, 0.382 g | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC(=CC=C1)CC(=O)OCC | C24H31NO3
reactant | Water | 0.2 mL | O | H2O
reactant | NaOH | 0.2 mL | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Benzyl-1-(2-(3-(2-hydroxyethyl)phenoxy) ethyl)piperidine | 223 mg, 66% | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC(=CC=C1)CCO | C22H29NO2
